US04578107
Preparation of 1-methyl-3-(3,4-dichlorophenyl)-4-ethoxyimidazolidine-2-one
Dissolved in 100 ml of dimethylformamide was 10.4 g (0.04 mole) of 1-methyl-3-(3,4-dichlorophenyl)-4-hydroxyimidazolidine-2-one. The solution was cooled to 10° C. and 2 g (0.04 mole) of sodium hydride was added to the solution with stirring. After the addition, the mixture was stirred for 30 minutes and 4.4 g of ethyl bromide was added dropwise. The mixture was stirred at room temperature for 2 hours and water was added to the reaction mixture. The mixture was extracted with chloroform and the chloroform extract was concentrated, giving 9.5 g of an oil in 82.1% yield.

reactant | 1-methyl-3-(3,4-dichlorophenyl)-4-hydroxyimidazolidine-2-one | 0.04 mole, 10.4 g | CN1C(N(C(C1)O)C1=CC(=C(C=C1)Cl)Cl)=O | C10H10Cl2N2O2
reactant | sodium hydride | 0.04 mole, 2 g | [H-].[Na+]
reactant | ethyl bromide | 4.4 g | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(3,4-dichlorophenyl)-4-ethoxyimidazolidine-2-one | 9.5 g, 82.1% yield | CN1C(N(C(C1)OCC)C1=CC(=C(C=C1)Cl)Cl)=O | C12H14Cl2N2O2
